US08748418B2
To a solution of ethyl 5-chloro-3-(2-ethoxy-2-oxoethoxy)picolinate (385 mg, 1.34 mmol) in toluene (10 ml) at 23° C. was added sodium ethoxide (200 mg, 2.94 mmol) and the reaction mixture was stirred at reflux overnight. To the yellow suspension was added some ice, ethyl acetate and set to pH=4 with acetic acid. The organic layer was separated and washed with sat NaHCO3 solution. The aqueous layers were reextracted with ethyl acetate, then dried over Na2SO4, filtered and evaporated to give the crude ethyl 6-chloro-3-hydroxyfuro[3,2-b]pyridine-2-carboxylate (154 mg, 637 μmol, 47.6% yield) as a light brown solid. MS (ISN): m/z=240.1 [(M−H)−] and 242.3 [(M+2−H)−].

reactant | ethyl 5-chloro-3-(2-ethoxy-2-oxoethoxy)picolinate | 1.34 mmol, 385 mg | ClC=1C=C(C(=NC1)C(=O)OCC)OCC(=O)OCC | C12H14ClNO5
reactant | sodium ethoxide | 2.94 mmol, 200 mg | [O-]CC.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 6-chloro-3-hydroxyfuro[3,2-b]pyridine-2-carboxylate | 637 μmol, 154 mg, 47.6% yield | ClC=1C=C2C(=NC1)C(=C(O2)C(=O)OCC)O | C10H8ClNO4
